US05643958
(1) Preparation of 3-benzyl 1,2-diethyl (1S,2R)-1-acetoxy-1,2,3-propanetricarboxylate
5.2 ml of a 2M cyclohexane solution of lithium diisopropylamide was dissolved in 10 ml of tetrahydrofuran, and 5 ml of a tetrahydrofuran solution containing 2 g of (S)-malic acid diethyl ester, was dropwise added at -78° C. under a nitrogen atmosphere. The reaction solution was gradually heated to -20° C. over a period of one hour and then again cooled to -78° C. Then, 5 ml of a tetrahydrofuran solution containing 1.32 g of benzyl bromoacetate was added thereto, followed by stirring for one hour at -78° C. to -20° C. 10 ml of a 1N citric acid aqueous solution was added thereto and extracted with ethyl ether. Then, the ether layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1→3/1). The obtained (1S,2R)-1-hydroxy-1,2,3-propanetricarboxylic acid 3-benzyl 1,2-diethyl ester was dissolved in 6 ml of pyridine, and 3 ml of acetic anhydride was added thereto, followed by stirring at room temperature for 12 hours. The reaction solution was evaporated to dryness under reduced pressure, and then residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1) to obtain 966 mg of the above-identified compound as colorless oily substance.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (S)-malic acid diethyl ester | 2 g | C(C)OC([C@@H](O)CC(=O)OCC)=O | C8H14O5
reactant | benzyl bromoacetate | 1.32 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | citric acid | 1N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | 2M | C1CCCCC1 | C6H12
product | 3-benzyl 1,2-diethyl (1S,2R)-1-acetoxy-1,2,3-propanetricarboxylate | 966 mg | C(C)(=O)O[C@@H]([C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)OCC)C(=O)OCC | C19H24O8
